US07291643B2
N-{4-[5-cyano-1-(3-phenylpropyl)-1H-pyrrol-2-yl]phenyl}ethanesulfonamide
N-[4-(5-cyano-1H-pyrrol-2-yl)phenyl]ethanesulfonamide (0.150 g, 0.54 mmol) was alkylated according to the procedure of Example 40 using potassium tert-butoxide (1.08 mL of a 1 M solution, 1.08 mmol) and 1-Iodo-3-phenylpropane (0.093 mL, 0.60 mmol) to afford the title compound (0.020 g, 10%).

reactant | N-[4-(5-cyano-1H-pyrrol-2-yl)phenyl]ethanesulfonamide | 0.54 mmol, 0.150 g | C(#N)C1=CC=C(N1)C1=CC=C(C=C1)NS(=O)(=O)CC | C13H13N3O2S
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | 1-Iodo-3-phenylpropane | 0.60 mmol, 0.093 mL | ICCCC1=CC=CC=C1 | C9H11I
product | N-{4-[5-cyano-1-(3-phenylpropyl)-1H-pyrrol-2-yl]phenyl}ethanesulfonamide | 0.020 g, 10% | C(#N)C1=CC=C(N1CCCC1=CC=CC=C1)C1=CC=C(C=C1)NS(=O)(=O)CC | C22H23N3O2S
